US07615552B2
4-Morpholin-4-yl-2-(2-morpholin-4-yl-ethoxy)-6-amino-pyrido[2,3-d]pyrimidine (1.45 g; 4 mmol) and cuprous bromide (1.15 g; 8 mmol) was dissolved in a mixture of water (25 mL) and concentrated hydrobromic acid (25 mL). The solution was chilled in an ice bath, and to it was added sodium nitrite (340 mg; 5 mmol, in aqueous solution). The solution was stirred for ten minutes, and then heated to 60° C. for one hour. It was then poured into a 10% solution of potassium carbonate, and extracted with dichloromethane (2×50 mL). The organic layer was dried over magnesium sulfate, evaporated, and the product was purified by column chromatography to give 4-morpholin-4-yl-2-(2-morpholin-4-yl-ethoxy)-6-bromo-pyrido[2,3-d]pyrimidine (0.98 g).

reactant | 4-Morpholin-4-yl-2-(2-morpholin-4-yl-ethoxy)-6-amino-pyrido[2,3-d]pyrimidine | 4 mmol, 1.45 g | N1(CCOCC1)C=1C2=C(N=C(N1)OCCN1CCOCC1)N=CC(=C2)N | C17H24N6O3
reactant | sodium nitrite | 5 mmol, 340 mg | N(=O)[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrobromic acid | 25 mL | Br | BrH
solvent | water | 25 mL | O | H2O
product | 4-morpholin-4-yl-2-(2-morpholin-4-yl-ethoxy)-6-bromo-pyrido[2,3-d]pyrimidine | 0.98 g | N1(CCOCC1)C=1C2=C(N=C(N1)OCCN1CCOCC1)N=CC(=C2)Br | C17H22BrN5O3
